US04181668
A mixture of 500 parts of formamide and 80 parts of methanol is prepared and 80 parts of 1,4-diamino-anthraquinone-2-carboxylic acid methyl ester and 60 parts of sodium cyanide are introduced, whilst stirring. The mixture is heated to 50° C. and a gentle stream of air is passed through it, whilst stirring. Stirring is continued until a thin layer chromatogram indicates that no starting material is left; this is generally the case after 5 hours. After cooling, the reaction mixture is added to 1,000 parts of water and 500 parts of ice, whilst stirring, and 200 parts of ammonium chloride are added to buffer the sodium hydroxide formed. The suspension is subsequently stirred whilst passing air through it, and the product is filtered off, washed neutral with warm water and rinsed with a little methanol. After drying, 81.5 parts of 1,4-diamino-2-cyano-anthraquinone-3-carboxylic acid methyl ester are obtained; melting point 914°-198° C.

reactant | formamide | C(=O)N | CH3NO
reactant | 1,4-diamino-anthraquinone-2-carboxylic acid methyl ester | COC(=O)C1=C(C=2C(C3=CC=CC=C3C(C2C(=C1)N)=O)=O)N | C16H12N2O4
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 1,4-diamino-2-cyano-anthraquinone-3-carboxylic acid methyl ester | COC(=O)C=1C(=C(C=2C(C3=CC=CC=C3C(C2C1N)=O)=O)N)C#N | C17H11N3O4
